US08314088B2
2-bromo-N-methyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride
To a solution of 8-benzyl-2-bromo-N-methyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (122 mg) in toluene (2 mL) was added 1-chloroethyl chloroformate (0.040 mL), and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was cooled to room temperature, and concentrated. To the obtained residue was added methanol (2 mL), and the mixture was stirred at 80° C. for 1 hr. The reaction mixture was cooled to room temperature, and concentrated. The obtained residue was purified by recrystallization (methanol-diisopropyl ether) to give the title compound (59 mg, 56%) as pale-yellow crystals.

reactant | 8-benzyl-2-bromo-N-methyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 122 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=C(C(=N2)N(C(C)C)C)Br | C18H23BrN4O
reactant | 1-chloroethyl chloroformate | 0.040 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-N-methyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride | 59 mg, 56% | Cl.BrC=1C(=NC2=C(CNCCO2)N1)N(C(C)C)C | InChI=1S/C11H17BrN4O.ClH/c1-7(2)16(3)10-9(12)14-8-6-13-4-5-17-11(8)15-10;/h7,13H,4-6H2,1-3H3;1H
